### PR TITLE
[Merged by Bors] - feat(Data/Matrix): relax some `IsUnit` lemmas to `IsRegular`

### PR DESCRIPTION
**Pull request by eric-wieser**
Also generalize some related results about `mulVec`, `vecMul`, and `LinearIndependent`, notably `Matrix.vecMul_injective_iff : Function.Injective M.vecMul ↔ LinearIndependent R M.row` which now needs only `Semiring` instead of `Ring`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/ToLin.lean [hunk 1]
```diff
@@ -99,20 +99,13 @@ theorem range_vecMulLinear (M : Matrix m n R) :
...
-  · rw [← h0]
-    ext j
-    simp [vecMul, dotProduct]
-
-lemma Matrix.linearIndependent_rows_of_isUnit {R : Type*} [Ring R] {A : Matrix m m R}
+  rw [← coe_vecMulLinear, linearIndependent_iff_injective_fintypeLinearCombination]
+  congr! 1
+  exact funext fun _ => Matrix.vecMul_eq_sum _ _
+
+lemma Matrix.linearIndependent_rows_of_isUnit {A : Matrix m m R}
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/ToLin.lean:108]: I've deliberately not tried to generalize this, as it's part of a big tangle of lemmas between equivalent ways to say the same thing.

File: Mathlib/Data/Matrix/Mul.lean [hunk 2]
```diff
@@ -775,6 +776,28 @@ theorem vecMulVec_mul_vecMulVec [Fintype m] (u : l → α) (v w : m → α) (x :
   simp_rw [mul_apply, dotProduct, vecMulVec, Pi.smul_apply, of_apply, mul_assoc, ← Finset.mul_sum,
     smul_eq_mul, Finset.sum_mul, mul_assoc]
 
+lemma isLeftRegular_iff_mulVec_injective [Fintype m] [DecidableEq m] {A : Matrix m m α} :
```
Comment (alreadydone) [inline Mathlib/Data/Matrix/Mul.lean]: Can you please remove DecidableEq to fix the errors, and replace => by ↦?

**Review by alreadydone — APPROVED** [review]
Thanks, LGTM!

File: Mathlib/Data/Matrix/Mul.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Data/Matrix/Mul.lean]: `↦` is only used twice in this file, so I'd prefer to leave it as is in this PR.

Comment (alreadydone) [reply Mathlib/Data/Matrix/Mul.lean]: I'd expect all new code into mathlib should use ↦. Is there an argument against this? Of course you don't have to touch legacy code.

Comment (alreadydone) [reply Mathlib/Data/Matrix/Mul.lean]: If I make a PR to switch to ↦ across mathlib, does it have to come with a linter? I expect an LLM can write a script to do the former but am not sure about the latter if we want to minimize false positive/negatives.

Comment (eric-wieser) [reply Mathlib/Data/Matrix/Mul.lean]: > I'd expect all new code into mathlib should use ↦.

The style guide does not say this

Comment (eric-wieser) [reply Mathlib/Data/Matrix/Mul.lean]: > If I make a PR to switch to ↦ across mathlib, does it have to come with a linter?

No; but a change to the style guide (via a Zulip discussion) should come first. One advantage of writing the linter first is it flags cases where the find / replace isn't sufficient, and I believe @thorimur has some code to auto-apply them.

File: Mathlib/Data/Matrix/Defs.lean [hunk 3]
```diff
@@ -546,6 +546,20 @@ lemma col_apply (A : Matrix m n α) (i : n) (j : m) : A.col i j = A j i := rfl
...
+@[local ext]
+lemma ext_row {A B : Matrix m n α} (h : ∀ i, A.row i = B.row i) : A = B :=
+  ext fun i j => congr_fun (h i) j
+
+/-- Two matrices agree if their columns agree. -/
+@[local ext]
+lemma ext_col {A B : Matrix m n α} (h : ∀ j, A.col j = B.col j) : A = B :=
+  ext fun i j => congr_fun (h j) i
+
+end
```
Comment (alreadydone) [inline Mathlib/Data/Matrix/Defs.lean:561]: The `local ext`s aren't doing anything because there are nothing else in this section?

File: Mathlib/Data/Matrix/Mul.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/Data/Matrix/Mul.lean]: Current [style guide](https://leanprover-community.github.io/contribute/style.html#anonymous-functions) says "The Lean default for this is `fun x => x * x`, but the ↦ arrow (inserted with \mapsto) is also valid. In mathlib the pretty printer displays ↦, and we slightly prefer this in the source as well." So it does need a change. It's also recently raised [on Zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/linter.20requests/near/533491862).

**Review by alreadydone — APPROVED** [review]
Thanks 🎉 
maintainer delegate

File: Mathlib/Data/Matrix/Defs.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Data/Matrix/Defs.lean:561]: They are generating `ext_iff` lemmas.

Comment (alreadydone) [reply Mathlib/Data/Matrix/Defs.lean:561]: Does the `local` serve to restrict them to the Matrix namespace? Don't we use `scoped` for that?

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

File: Mathlib/Data/Matrix/Defs.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Data/Matrix/Defs.lean:561]: The `iff` lemmas are in the `Matrix` namespace anyway, because we are in `namespace Matrix`

Comment (alreadydone) [reply Mathlib/Data/Matrix/Defs.lean:561]: Oh I see so `@[local ext]` enclosed in a section is a trick to generate `ext` lemmas that will not be used by the `ext` tactic anywhere.

**Comment by eric-wieser** [comment]
bors merge
